US07674822B2
Sodium tert-butoxide (360 mg, 3.7 mmol, 3.3 equiv) was added to a solution of methyl thioglycolate (0.110 ml, 1.23 mmol, 1.1 equiv) in DMF (10 ml). 2-chloro-benzo[b]thiophene-3-carboxylic acid methyl ester (235 mg, 1.12 mmol, 1 equiv, available from Maybridge) was then added and the mixture became orange. When no starting material was observed by TLC, water was added followed by extraction with EtOAc. Purification by column chromatography yielded 162 mg (61%) of 1-hydroxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester as an orange solid.

reactant | Sodium tert-butoxide | 3.7 mmol, 360 mg, 3.3 equiv | CC(C)([O-])C.[Na+]
reactant | methyl thioglycolate | 1.23 mmol, 0.110 ml, 1.1 equiv | C(CS)(=O)OC | C3H6O2S
reactant | 2-chloro-benzo[b]thiophene-3-carboxylic acid methyl ester | 1.12 mmol, 235 mg, 1 equiv | COC(=O)C=1C2=C(SC1Cl)C=CC=C2 | C10H7ClO2S
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-hydroxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | 162 mg, 61% | COC(=O)C1=C(C2=C(C=3C=CC=CC3S2)S1)O | C12H8O3S2
